US05106842
Triethylamine (28 mL, 0.20 mol) and chlorotrimethylsilane (13 mL, 0.10 mol) were successively added to a stirred solution of 3,4-diisopropoxy-2-hydroxy-2-methylcyclobut-3-ene-1-one (14.3 g, 0.0667 mol) in diethyl ether (250 mL). The mixture was allowed to stir at ambient temperatures for 18 hrs. The mixture was filtered through SiO2 contained in a sintered glass funnel. The filter cake was washed with additional diethyl ether. The ether was removed to leave 3,4-diisopropoxy-2-trimethylsilyloxy-2-methylcyclobut-3-ene-1-one (18 g, 94% yield) as a clear oil. Trimethylsilyl trifluoromethanesulfonate (150 μL, 0.78 mmol) was added to a stirred solution of the silyl ether (18 g, 0.0628 mol) and 1,2-bis(trimethylsilyloxy)ethane (16.2 mL, 0.066 mmol) in tetrahydrofuran (36 mL). The solution was stirred for 1 hr at 22° C. and additional trimethylsilyl trifluoromethanesulfonate (150 μL) was then added. The solution was stirred for an additional 0.25 hr and was concentrated to dryness. The residue was flash chromatographed on SiO2 (200 g) with diethyl ether-hexanes (1:1) to afford 2,2-ethylenedioxy-3-isopropoxy-4-methylcyclobut-3-ene-1-one (9 g, 73% yield) as a

reactant | Triethylamine | 0.20 mol, 28 mL | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 0.10 mol, 13 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3,4-diisopropoxy-2-hydroxy-2-methylcyclobut-3-ene-1-one | 0.0667 mol, 14.3 g | C(C)(C)OC=1C(C(C1OC(C)C)=O)(C)O | C11H18O4
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 3,4-diisopropoxy-2-trimethylsilyloxy-2-methylcyclobut-3-ene-1-one | 18 g, 94% yield | C(C)(C)OC=1C(C(C1OC(C)C)=O)(C)O[Si](C)(C)C | C14H26O4Si
